US04732978
2-[(2-Fluorophenoxy)methyl]quinoline
To a solution of 2-fluorophenol (7.8 g, 70 mmol) in 20 mL ethanol is added 2-(chloromethyl)quinoline hydrochloride (15.0 g, 70 mmol) followed by a solution of potassium hydroxide (7.86 g, 140 mmol) in 50 mL ethanol. The reaction mixture is refluxed overnight. After filtering while still hot, the reaction mixture is cooled to 8° C. to afford 9.3 g (53%) of brown crystals, m.p. 84°-86° C.

reactant | 2-fluorophenol | 70 mmol, 7.8 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | 2-(chloromethyl)quinoline hydrochloride | 70 mmol, 15.0 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium hydroxide | 140 mmol, 7.86 g | [OH-].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-[(2-Fluorophenoxy)methyl]quinoline | 9.3 g, 53% | FC1=C(OCC2=NC3=CC=CC=C3C=C2)C=CC=C1 | C16H12FNO
